US05006570
Step III - Preparation of Methyl 2-hydroxy-3-(gamma-bromopropyl)-4-acetaminobenzoate-Intermediate (M-1)
2277 g of 66% hydrobromic acid and 308 g of methyl 2-hydroxy-3-allyl-4-acetaminobenzoate were introduced into a 3-liter round-bottomed flask equipped with a leakproof stirrer, a thermometer and a safety tube containing mercury so that a pressure of approximately 2 cm of mercury is created in the apparatus. The mixture was stirred for 4 hours and then allowed to stand overnight. 5 liters of water were then added. The precipitate formed was drained, washed with water and dried at 50° C.

reactant | hydrobromic acid | 2277 g | Br | BrH
reactant | methyl 2-hydroxy-3-allyl-4-acetaminobenzoate | 308 g | OC1=C(C(=O)OC)C=CC(=C1CC=C)NC(=O)C | C13H15NO4
catalyst | mercury | [Hg] | Hg
solvent | water | 5 liters | O | H2O
product | Methyl 2-hydroxy-3-(gamma-bromopropyl)-4-acetaminobenzoate | OC1=C(C(=O)OC)C=CC(=C1CCCBr)NC(=O)C | C13H16BrNO4
